US05066640
292 g (1.08 moles) of ethyl 2-chloro-2-(o-methylbenzyl)-acetoacetate were added dropwise to 4.85 moles of 25% strength aqueous NaOH solution in the course of 1 hour. The refluxed mixture was then stirred for a further 6 hours. The reaction solution was reacted twice by shaking with toluene and then acidified with semiconcentrated hydrochloric acid, and the precipitate which had separated out was filtered off under suction. It was rinsed with water and toluene and dried in a drying oven. 157 g (90% of the theoretical yield) of o-methylcinnamic acid of melting point 176° to 177° C. were obtained.

reactant | ethyl 2-chloro-2-(o-methylbenzyl)-acetoacetate | 1.08 moles, 292 g | ClC(C(=O)OCC)(C(=O)C)CC1=C(C=CC=C1)C | C14H17ClO3
reactant | NaOH | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | o-methylcinnamic acid | CC1=C(C=CC(=O)O)C=CC=C1 | C10H10O2
